US07368578B2
di-tert-Butyl dicarbonate (1.28 mL) was added to a solution (20 mL) of 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperazine (1.0 g) in tetrahydrofuran at room temperature and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure to give tert-butyl 4-(4,5-dimethyl-1,3-thiazol-2-yl)piperazine-1-carboxylate as colorless crystals (1.1 g, yield 73%). NMR (CDCl3) δ: 1.47 (9H, s), 2.13 (3H, s), 2.20 (3H, s), 3.34-3.37 (4H, m), 3.51-3.54 (4H, m).

reactant | di-tert-Butyl dicarbonate | 1.28 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperazine | 20 mL, 1.0 g | CC=1N=C(SC1C)N1CCNCC1 | C9H15N3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl 4-(4,5-dimethyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | 1.1 g, yield 73% | CC=1N=C(SC1C)N1CCN(CC1)C(=O)OC(C)(C)C | C14H23N3O2S
